US05576335
To a solution of N-(4-dimethylaminophenyl)-N-geranyl-2-aminobenzamide (0.8 g) in dichloromethane (10 ml) was added under ice-cooling heptyl isocyanate (0.56 g) and the mixture was stirred overnight while returning slowly to room temperature. After distilling off the solvent, the 10 residue was purified by a silica gel column chromatography (hexane:ethyl acetate=3:1) to give N-(4-dimethylaminophenyl)-N-geranyl-2-(3-heptylureido)benzamide (0.98 g, 89%) as an oily product.

reactant | N-(4-dimethylaminophenyl)-N-geranyl-2-aminobenzamide | 0.8 g | CN(C1=CC=C(C=C1)N(C(C1=C(C=CC=C1)N)=O)C\C=C(/C)\CCC=C(C)C)C | C25H33N3O
reactant | heptyl isocyanate | 0.56 g | C(CCCCCC)N=C=O | C8H15NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(4-dimethylaminophenyl)-N-geranyl-2-(3-heptylureido)benzamide | 0.98 g, 89% | CN(C1=CC=C(C=C1)N(C(C1=C(C=CC=C1)NC(=O)NCCCCCCC)=O)C\C=C(/C)\CCC=C(C)C)C | C33H48N4O2
